US08486962B2
A mixture of p-nitro benzaldehyde (3 g, 19.8 mmol) and 2,2-diethoxy-ethylamine (2.64 g, 19.8 mmol) was heated at 100° C. for 2 hrs. The reaction mixture was cooled to room temperature and sulphuric acid (20 ml) was added. The resultant solution was added slowly to a mixture of phosphorus pentoxide (10 g) and sulphuric acid (3 ml) at 180° C. and the temperature was maintained for 30 min. The reaction mixture was cooled to room temperature and basified with saturated ammonium hydroxide solution. The resultant solid was filtered and recrystallised with ether to give 2-(4-nitro-phenyl)-oxazole (1 g, 26%).

reactant | p-nitro benzaldehyde | 19.8 mmol, 3 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2,2-diethoxy-ethylamine | 19.8 mmol, 2.64 g | C(C)OC(CN)OCC | C6H15NO2
reactant | phosphorus pentoxide | 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4-nitro-phenyl)-oxazole | 1 g, 26% | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC=CN1 | C9H6N2O3
